US07977331B1
Methyl 3-(1-tert-butoxycarbonylpiperidin-3-yloxy)-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (0.68 g) was dissolved in trifluoroacetic acid (20 ml), and the mixture was stirred at room temperature for 3 hr. Toluene was added to the reaction mixture and the solvent was evaporated under reduced pressure. 4N HCl-ethyl acetate solution (2.0 ml) was added to the obtained residue and the mixture was stirred, and the solvent was evaporated under reduced pressure. The residue was neutralized with saturated aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol=9:1) to give methyl 12-cyclohexyl-3-(piperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (0.16 g, yield 17%).

reactant | Methyl 3-(1-tert-butoxycarbonylpiperidin-3-yloxy)-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.68 g | C(C)(C)(C)OC(=O)N1CC(CCC1)OC1=CC2=C(C3=C(C4=C(N3CCO2)C=C(C=C4)C(=O)OC)C4CCCCC4)C=C1 | C34H42N2O6
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 12-cyclohexyl-3-(piperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.16 g, yield 17% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC4CNCCC4)C=C(C=C2)C(=O)OC | C29H34N2O4
